US07432279B2
6-[(2-morpholin-4-ylethyl)amino]-4-[(4-phenoxyphenyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 6-Fluoro-4-(4-phenoxy-phenylamino)-[1,7]naphthyridine-3-carbonitrile was reacted with 2-morpholin-4-yl-ethylamine. The crude product was purified by flash column chromatography (2% methanol in methylene chloride) to give a yellow solid (0.12 g, 44%). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.5 (m, 4 H) 2.6 (t, J=6.8 Hz, 2 H) 3.4 (m, 2 H) 3.6 (m, 4 H) 6.6 (t, J=5.6 Hz, 1 H) 7.0 (m, 2 H) 7.1 (m, 4 H) 7.4 (m, 3 H) 8.2 (s, 1 H) 8.3 (s, 1 H) 8.8 (s, 1 H) 9.6 (s, 1 H).

reactant | 6-Fluoro-4-(4-phenoxy-phenylamino)-[1,7]naphthyridine-3-carbonitrile | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H13FN4O
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 6-[(2-morpholin-4-ylethyl)amino]-4-[(4-phenoxyphenyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.12 g, 44% | N1(CCOCC1)CCNC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C27H26N6O2
